US04918064
4-(Diethyl phosphonomethyl)benzaldehyde
Pyridinium chlorochromate (110 mmol) in dichloromethane (150 mL) was rapidly stirred while 4-(diethyl phosphonomethyl)benzyl alcohol (73.6 mmol) in dichloromethane (15 mL) was rapidly added. After 1.5 hours, ethyl ether (200 mL) was added to the reaction mixture and the organic solution was decanted from the tarry residue. The residue was washed with 3×50 mL ethyl ether. The combined organic solution was filtered through Florisil chromatographic material and concentrated to a brown oil. The oil was then distilled to give the product as a clear oil (BP 150°-180° C. @0.002-0.005 mm Hq).

reactant | Pyridinium chlorochromate | 110 mmol | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 4-(diethyl phosphonomethyl)benzyl alcohol | 73.6 mmol | C(C)C(C1=CC=C(CO)C=C1)(P(=O)(O)O)CC | C12H19O4P
reactant | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(Diethyl phosphonomethyl)benzaldehyde | C(C)C(C1=CC=C(C=O)C=C1)(P(=O)(O)O)CC | C12H17O4P
